US09085555B2
B. 1-[6-(4-Methoxy-benzylamino)-1H-pyrrolo[2,3-b]pyridin-3-yl]-ethanone
The reaction was performed according to the protocol described in Org. Lett., 2010, 12(20), 4438-4441. A vial containing 1-(6-chloro-1H-pyrrolo[2,3-b]pyridin-3-yl)-ethanone (100 mg, 0.49 mmol), BrettPhos (2.62 mg, 4.88 μmol) and BrettPhos precatalyst (3.9 mg, 4.88 μmol) and a magnetic stir bar was sealed with a teflon screw-cap, evacuated and backfilled with argon. A balloon of argon was placed on top of the vial, to allow a pressure balance and LiHMDS (1 M in THF, 1172 μL, 1.17 mmol) was added, followed by 4-methoxybenzylamine (76 μL, 0.59 mmol). The reaction mixture was stirred and heated at 65° C. for 22 h, then allowed to cool to RT, quenched by the addition of 1 M HCl (1 mL) diluted with EtOAc and poured into a saturated aqueous solution of NaHCO3. After extracting twice with EtOAc, the combined organic layers were washed with brine, dried (Na2SO4), filtered and concentrated. The crude was purified by flash column chromatography on silica gel (c-hexane to EtOAc). TLC, Rf (EtOAc)=0.75; MS (UPLC/MS): 296.2 [M+H]+, 591.3 [2M+H]+, 613.2 [2M+Na]+; tR (HPLC conditions f): 1.5 min.

reactant | 1-(6-chloro-1H-pyrrolo[2,3-b]pyridin-3-yl)-ethanone | 0.49 mmol, 100 mg | ClC1=CC=C2C(=N1)NC=C2C(C)=O | C9H7ClN2O
reactant | BrettPhos | 4.88 μmol, 2.62 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C | C35H53O2P
reactant | LiHMDS | 1.17 mmol, 1 M, 1172 μL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 4-methoxybenzylamine | 0.59 mmol, 76 μL | COC1=CC=C(CN)C=C1 | C8H11NO
catalyst | BrettPhos precatalyst | 4.88 μmol, 3.9 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C.C1=CC=C([C-]=C1)CCN.Cl[Pd+]
product | 1-[6-(4-Methoxy-benzylamino)-1H-pyrrolo[2,3-b]pyridin-3-yl]-ethanone | COC1=CC=C(CNC2=CC=C3C(=N2)NC=C3C(C)=O)C=C1 | C17H17N3O2
